***
N0102 19535 19279 -1000 0 0 0 0.6 1e-3 2 10
N0304 19549 19293 -1000 0 0 0 0.6 1e-3 2 10
N0105 19535 19791 -1000 0 0 0 0.6 1e-3 2 10
N0306 19549 19805 -1000 0 0 0 0.6 1e-3 2 10
E0007 20827 20571 20826 20570 -1
F0201 19025 19281 19026 19282 0.5
F0003 19039 19295 19040 19296 0.5
F0003 19291 19547 19290 19546 1
F0501 20049 19793 20050 19794 0.99
F0703 20063 19807 20064 19808 0.99
I0009 19273 19529 PULSE 0 10E-6 5 0 0 10 20 1
I0009 19274 19530 PULSE 0 10E-6 4 0 0 10 20 1
I0009 19275 19531 PULSE 0 10E-6 3 0 0 10 20 1
I0009 19276 19532 PULSE 0 10E-6 2 0 0 10 20 1
I0009 19277 19533 PULSE 0 10E-6 1 0 0 10 20 1
V0008 19289 19545 PULSE 0 -3 0 0.5 0.5 0 1 6
.TRAN 7 2E-3 GEAR1 1 UIC
