9
N0102 1 2 -1000 0 0 0 0.6 1e-3 2 10
N0304 3 4 -1000 0 0 0 0.6 1e-3 2 10
N0105 1 5 -1000 0 0 0 0.6 1e-3 2 10
N0306 3 6 -1000 0 0 0 0.6 1e-3 2 10
E0007 0 7 8 0 -1
F0201 2 1 5 8 0.5
F0003 0 3 6 7 0.5
F0003 0 3 9 1 1
F0501 5 1 2 0 0.99
F0703 7 3 4 0 0.99
I0009 0 9 PULSE 0 10E-6 5 0 0 10 20 1
I0009 0 9 PULSE 0 10E-6 4 0 0 10 20 1
I0009 0 9 PULSE 0 10E-6 3 0 0 10 20 1
I0009 0 9 PULSE 0 10E-6 2 0 0 10 20 1
I0009 0 9 PULSE 0 10E-6 1 0 0 10 20 1
V0008 0 8 PULSE 0 -3 0 0.5 0.5 0 1 6
.TRAN 7 2E-3 GEAR1 1 UIC
